US07291632B2
Preparation 12. 4-(2-Hydroxyethyl)-1-isopropyl-1H-pyrazole
Combine 2,3-dihydrofuran (25 mL, 0.33 mol) and triethylorthoformate (93.3 mL, 0.56 mol) and then slowly add boron trifluoride diethyl etherate (2.0 mL, 0.017 mol) while stirring rapidly. Allow the reaction to continue for 18 hr. Distill the reaction at 60° C. under 8 mm Hg vacuum to remove excess 2,3-dihydrofuran and triethylorthoformate. Heat a portion of the remaining residue (10 g, 45 mmol) at reflux in 1 N HCl with isopropyl hydrazine (3.4 g, 45 mmol). After 2 hr, the temperature is reduced to 80° C. and the reaction is stirred for 18 hr. After cooling to room temperature, the mixture is basified with 1 N NaOH to a pH>12 and diluted with CH2Cl2. Separate and extract the aqueous layer with CH2Cl2 (two times), combine organic layers, dry over MgSO4, and concentrate. Chromatography on silica gel, eluting with a gradient of 0–10% (2M NH3 in methanol) in CH2Cl2 provides the title intermediate as a brown solid (3.6 g, 52%). Mass spectrum (ion spray): m/z=155.2 (M+1); 1H NMR (DMSO, ppm) 7.52 (s, 1H), 7.24 (s,1H), 4.59 (t, J=5.5, 10.6 Hz, 1H), 4.39 (m, 1H), 3.51 (m, 2H), 2.51 (m, 2H), 1.38 (s, 3H), 1.35 (s, 3H)

reactant | 2,3-dihydrofuran | 0.33 mol, 25 mL | O1CCC=C1 | C4H6O
reactant | triethylorthoformate | 0.56 mol, 93.3 mL | C(C)OC(OCC)OCC | C7H16O3
reactant | boron trifluoride diethyl etherate | 0.017 mol, 2.0 mL | B(F)(F)F.CCOCC
reactant | isopropyl hydrazine | 45 mmol, 3.4 g | C(C)(C)NN | C3H10N2
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | HCl | 1 N | Cl | ClH
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(2-Hydroxyethyl)-1-isopropyl-1H-pyrazole | 3.6 g, 52% | OCCC=1C=NN(C1)C(C)C | C8H14N2O
